US07576102B2
(R)-3-(4-Iodo-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester:
N-tert-butyl-butoxy carbonyl-(R)-(−)-3-pyrrolidinol (3 g, 16 mmol), 4-iodophenol (4.58 g, 21 mmol), and triphenyl phosphine (5.04 g, 19 mmol), were taken into anhydrous tetrahydrofuran (10 mL) in a nitrogen flushed 200 mL round bottom flask. The reaction was cooled to 0° C. and diisopropyl diazodicarboxylate (1.044 mL, 19 mmol) taken into anhydrous tetrahydrofuran (10 mL) was added to the reaction dropwise over 10 minutes. The reaction was run at 0° C. for 30 minutes and then allowed to warm to room temperature over 12 h. The reaction was then heated to 70° C. and left to react for 12 h. The mixture was concentrated to dryness, and the compound was purified by flash column chromatography (40:1 silica ratio, eluted with a gradient of dichlormethane to 10% methanol in dichloromethane) to obtain the title product (5.18 g, 83%);LCMS; m/z 390 (M+1) 95% pure. 1H NMR (400 MHz, DMSO); δ 1.40 (s, 9H), 2.01-2.03 (m, 2H), 3.03-3.42 (m, 3H), 3.43-3.54 (m, 1H), 4.98 (s, 1H), 6.80 (d, 2H, J=8.8,), 7.60 (d, 2H, J=8.8,).

reactant | N-tert-butyl-butoxy carbonyl-(R)-(−)-3-pyrrolidinol | 16 mmol, 3 g | C(C)(C)(C)N1[C@H](C(CC1)O)C(=O)OCCCC | C13H25NO3
reactant | 4-iodophenol | 21 mmol, 4.58 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | triphenyl phosphine | 19 mmol, 5.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl diazodicarboxylate | 19 mmol, 1.044 mL | [N+](=[N-])(C(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (R)-3-(4-Iodo-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.18 g, 83% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC1=CC=C(C=C1)I | C15H20INO3
